US09145421B2
Anhydrous aluminium bromide (2.5 g) was added to a reaction mixture containing 3-(5-chloro-2-phenoxyphenyl)-1-methylpyrrolidine-2,4-dione (1 g) in 1,2-dichlorobenzene (4 mL) at ambient temperature. The reaction mixture was stirred at about 85° C. for about 9 hours, then cooled to ambient temperature. A mixture of water and concentrated hydrochloric acid (50 mL:5 mL) was added slowly. The contents were stirred for about 30 minutes. Hexane (10 mL) was added. The contents were stirred for about 1 hour, filtered, washed with hexane (10 mL) and dried in air at about 30° C. for about 15 hours to obtain 11-chloro-2-methyl-2,3-dihydro-1H-dibenzo [2,3:6,7]oxepino[4,5-c]pyrrol-1-one.

reactant | aluminium bromide | 2.5 g | [Br-].[Al+3].[Br-].[Br-]
reactant | 3-(5-chloro-2-phenoxyphenyl)-1-methylpyrrolidine-2,4-dione | 1 g | ClC=1C=CC(=C(C1)C1C(N(CC1=O)C)=O)OC1=CC=CC=C1 | C17H14ClNO3
reactant | water | O | H2O
reactant | hydrochloric acid | 50 mL | Cl | ClH
solvent | 1,2-dichlorobenzene | 4 mL | ClC1=C(C=CC=C1)Cl | C6H4Cl2
solvent | Hexane | 10 mL | CCCCCC | C6H14
product | 11-chloro-2-methyl-2,3-dihydro-1H-dibenzo [2,3:6,7]oxepino[4,5-c]pyrrol-1-one | ClC1=CC2=C(OC3=C(C4=C2C(N(C4)C)=O)C=CC=C3)C=C1 | C17H12ClNO2
